US08314100B2
1-[(2,6,7-Trimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine (Compound 191)
Ethyl N-(2,6,7-trimethoxyquinoxalin-3-yl)carbamate and 1-(3,5-dimethoxyphenyl)piperazine were reacted by the same way with the example 190 to obtain the titled compound (yield, 68%). 1H NMR (300 MHz, CDCl3) δ 3.28-3.29 (m, 4H), 3.75-3.79 (m, 4H), 3.97 (s, 3H), 4.00 (s, 3H), 4.13 (s, 3H), 6.07-6.11 (m, 3H), 7.14 (s, 1H), 7.27-7.28 (m, 2H).

reactant | Ethyl N-(2,6,7-trimethoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC(=C(C=C2N=C1NC(OCC)=O)OC)OC | C14H17N3O5
reactant | 1-(3,5-dimethoxyphenyl)piperazine | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
product | 1-[(2,6,7-Trimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 68% | COC1=NC2=CC(=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)OC)OC | C24H29N5O6
